US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl]glycine ethyl ester
1.41 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.23 g of N-(6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl)glycine ethyl ester were dissolved in 17 ml of N,N-dimethylformamide; 1.50 ml of N-ethyldiisopropylamine was added, followed by stirring at room temperature for 28 hours, then at 60° C. for 19 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated, recrystallized by the addition of tetrahydrofuran, collected by filtration, washed with ethyl ether and dried to yield 987 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.41 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl)glycine ethyl ester | 1.23 g | C(C)OC(CNC(=O)C1=NN2N=C(C=CC2=N1)Cl)=O | C10H10ClN5O3
reactant | N-ethyldiisopropylamine | 1.50 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl]glycine ethyl ester | 987 mg | C(C)OC(CNC(=O)C1=NN2N=C(C=CC2=N1)NCCCN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H37N7O4
